US04431807
4-Methyl-5-hydroxy-6-methoxy-8-nitroquinoline (IV)
4-Methyl-5,6-dimethoxy-8-nitroquinoline (6.21 g, 25 mmol) was dissolved in ethanol (100 mL) containing concentrated hydrochloric acid (4.7 mL). The mixture was heated under reflux for 21 hours, then cooled to 10° and filtered. The solid was washed with cold (10°) ethanol (18 mL) followed by petroleum ether (15 mL) and air-dried to yield 5.41 g (92%) of the title compound, mp 253°-257° (dec).

reactant | 4-Methyl-5,6-dimethoxy-8-nitroquinoline | 25 mmol, 6.21 g | CC1=CC=NC2=C(C=C(C(=C12)OC)OC)[N+](=O)[O-] | C12H12N2O4
reactant | hydrochloric acid | 4.7 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-Methyl-5-hydroxy-6-methoxy-8-nitroquinoline | 5.41 g, 92% | CC1=CC=NC2=C(C=C(C(=C12)O)OC)[N+](=O)[O-] | C11H10N2O4
